### PR TITLE
[Merged by Bors] - feat(Topology): test strictness on quotient and subspaces

### PR DESCRIPTION
**Pull request by ADedecker**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Maps/Strict/Basic.lean [hunk 1]
```diff
@@ -96,5 +97,60 @@ lemma IsClosedMap.isStrictMap (hc : IsClosedMap f) (h_cont : Continuous f) :
...
+    IsStrictMap f :=
+  f_homeo.isOpenMap.isStrictMap f_homeo.continuous
+
+/-- The identity is a strict map. -/
+lemma IsStrictMap.id : IsStrictMap (id : X → X) := IsHomeomorph.id.isStrictMap
+
+/-- Assume that `f : X → Y` is a quotient map. Then `g : Y → Z` is strict
+if and only if `g ∘ f` is strict. -/
+lemma IsQuotientMap.isStrictMap_iff (f_quot : IsQuotientMap f) :
+    IsStrictMap g ↔ IsStrictMap (g ∘ f) := by
```
Comment (ocfnash) [inline Mathlib/Topology/Maps/Strict/Basic.lean:111]: I think we should get `_comp` into the name, and _probably_ swap LHS and RHS:
```suggestion
lemma IsQuotientMap.isStrictMap_comp_iff (f_quot : IsQuotientMap f) :
    IsStrictMap (g ∘ f) ↔ IsStrictMap g := by
```

File: Mathlib/Topology/Maps/Strict/Basic.lean [hunk 2]
```diff
@@ -96,5 +97,60 @@ lemma IsClosedMap.isStrictMap (hc : IsClosedMap f) (h_cont : Continuous f) :
...
+
+/-- A quotient map is strict. See also `isQuotientMap_iff_isStrictMap_surjective`. -/
+lemma IsQuotientMap.isStrictMap (f_quot : IsQuotientMap f) :
+    IsStrictMap f :=
+  f_quot.isStrictMap_iff.mp .id
+
+/-- Assume that `g : Y → Z` is an embedding. Then `f : X → Y` is strict
+if and only if `g ∘ f` is strict. -/
+lemma IsEmbedding.isStrictMap_iff (g_emb : IsEmbedding g) :
+    IsStrictMap f ↔ IsStrictMap (g ∘ f) := by
```
Comment (ocfnash) [inline Mathlib/Topology/Maps/Strict/Basic.lean:125]: As above, I suggest something like:
```suggestion
lemma IsEmbedding.isStrictMap_comp_iff (g_emb : IsEmbedding g) :
    IsStrictMap (g ∘ f) ↔ IsStrictMap f := by
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Topology/Maps/Strict/Basic.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Maps/Strict/Basic.lean:111]: I'm mimicking [Topology.IsQuotientMap.continuous_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Maps/Basic.html#Topology.IsQuotientMap.continuous_iff), so I'd rather keep it as is.

File: Mathlib/Topology/Maps/Strict/Basic.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Maps/Strict/Basic.lean:125]: Similarly, I'm mimicking [Topology.IsEmbedding.continuous_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Maps/Basic.html#Topology.IsEmbedding.continuous_iff).

**Comment by ADedecker** [comment]
bors merge
